R1 ( net47 net4)  R=9.6E3
T2 ( net4 net118 vdd! vdd!)  pfet  L=1.78E-6 W=4.14E-6
T3 ( net128 net118 vdd! vdd!)  pfet  L=1.78E-6 W=4.14E-6
T4 ( net156 net4 net128 vdd!)  pfet  L=1.78E-6 W=4.14E-6
R5 (net166 net109) R=5.1E4
C6 (net74 net37) C=2.7E-12
R7 ( net178 net59)  R=6.3E1
T8 ( net59 net126 0 0)  nfet  L=9.23E-6 W=7.04E-6
T9 ( net139 net126 0 0)  nfet  L=9.23E-6 W=7.04E-6
T10 ( vdd! net59 net126 0)  nfet  L=9.23E-6 W=7.04E-6
C11 (net73 net16) C=3.2E-12
C12 (net95 net13) C=6.9E-6
R13 (net152 net183) R=8.8E3
T14 (net62 net67 net67 0) nfet L=2.44E-6 W=3.04E-6
R15 (net35 net7) R=1.0E5
T16 (net95 net25 net25 0) nfet L=9.59E-6 W=8.13E-6
C17 (0 net152) C=5.2E-8
T18 (0 0 0 0) pfet L=5.55E-6 W=7.86E-6
T19 (net192 net91 net91 0) pfet L=3.52E-6 W=4.07E-6
R20 (net35 net61) R=9.6E0
T21 (net107 net11 net11 0) pfet L=4.85E-6 W=2.16E-6
T22 (net166 net122 net122 0) pfet L=3.33E-6 W=8.14E-6
T23 (net158 net25 net25 0) pfet L=4.61E-6 W=7.92E-6
R24 (net57 net75) R=4.8E6
R25 (net129 net34) R=3.3E0
T26 (net11 net67 net67 0) pfet L=2.93E-6 W=5.21E-6
T27 (net26 net109 net109 0) nfet L=4.32E-6 W=6.59E-6
R28 (net81 net52) R=1.2E0
T29 (net162 net124 net124 0) nfet L=5.60E-6 W=3.57E-6
R30 (net38 net135) R=2.5E6
R31 (net71 vdd!) R=0.3E4
C32 (0 net86) C=9.5E-12
R33 (net102 0) R=1.0E6
R34 (net47 net74) R=1.3E1
R35 (net195 net193) R=7.8E0
T36 (net12 net39 net39 0) nfet L=0.42E-6 W=8.68E-6
R37 (vdd! net89) R=7.4E4
C38 (0 net176) C=2.7E-14
C39 (net26 net108) C=4.5E-14
T40 (0 net56 net56 0) pfet L=5.16E-6 W=4.17E-6
T41 (net154 net58 net58 0) nfet L=6.27E-6 W=9.73E-6
C42 (net62 net25) C=7.6E-5
T43 (net164 net120 net120 0) nfet L=8.80E-6 W=0.62E-6
C44 (net188 net22) C=9.9E-5
T45 (net22 net130 net130 0) nfet L=5.45E-6 W=5.46E-6
R46 (net117 net98) R=0.5E6
T47 (net11 net187 net187 0) nfet L=6.70E-6 W=5.22E-6
T48 (net17 net32 net32 0) nfet L=8.88E-6 W=8.47E-6
T49 (0 net193 net193 0) pfet L=7.30E-6 W=6.19E-6
T50 (net71 net11 net11 0) nfet L=3.58E-6 W=7.27E-6
T51 (net177 net196 net196 0) nfet L=3.36E-6 W=2.22E-6
R52 (0 net23) R=2.4E3
T53 (net6 net3 net3 0) pfet L=1.62E-6 W=2.00E-6
R54 (net178 net86) R=0.6E1
R55 (net111 net30) R=3.0E6
C56 (net165 net186) C=5.4E-11
C57 (net193 net182) C=5.7E-14
T58 (net123 net53 net53 0) pfet L=3.36E-6 W=5.10E-6
T59 (net143 net116 net116 0) nfet L=0.45E-6 W=1.16E-6
C60 (0 net99) C=2.9E-12
T61 (net72 net64 net64 0) pfet L=6.28E-6 W=5.96E-6
T62 (net30 0 0 0) nfet L=4.50E-6 W=8.45E-6
C63 (net53 net22) C=6.8E-7
R64 (net33 net9) R=3.7E2
C65 (net142 net6) C=4.1E-14
C66 (net9 net108) C=9.1E-10
T67 (net163 net38 net38 0) nfet L=9.81E-6 W=1.31E-6
C68 (net47 net38) C=4.5E-14
T69 (net106 net19 net19 0) pfet L=6.63E-6 W=8.06E-6
C70 (net2 net140) C=8.1E-12
R71 (net30 vdd!) R=3.6E3
T72 (net108 net68 net68 0) nfet L=7.00E-6 W=6.15E-6
T73 (vdd! net32 net32 0) nfet L=9.00E-6 W=6.97E-6
C74 (net68 net104) C=1.1E-9
R75 (net152 net146) R=4.7E4
T76 (net60 net195 net195 0) nfet L=4.83E-6 W=8.44E-6
T77 (net157 net170 net170 0) pfet L=8.74E-6 W=9.60E-6
T78 (net102 net1 net1 0) nfet L=0.52E-6 W=8.76E-6
T79 (vdd! net147 net147 0) nfet L=4.19E-6 W=4.68E-6
C80 (net178 net47) C=7.0E-10
T81 (net186 net65 net65 0) pfet L=7.16E-6 W=0.82E-6
C82 (net143 net66) C=0.7E-10
C83 (net151 net124) C=4.8E-6
T84 (net13 net12 net12 0) pfet L=1.43E-6 W=6.44E-6
T85 (net68 net116 net116 0) nfet L=2.14E-6 W=8.74E-6
T86 (net100 net166 net166 0) nfet L=2.75E-6 W=2.83E-6
C87 (net24 net57) C=5.7E-12
R88 (0 net68) R=1.5E0
T89 (net77 net184 net184 0) nfet L=5.31E-6 W=5.73E-6
C90 (net101 net62) C=7.0E-5
C91 (net37 net38) C=9.7E-9
T92 (net29 net153 net153 0) pfet L=4.11E-6 W=2.45E-6
C93 (net31 net124) C=4.2E-12
C94 (net39 0) C=5.0E-5
T95 (vdd! net69 net69 0) nfet L=3.04E-6 W=7.75E-6
T96 (net195 net117 net117 0) pfet L=0.11E-6 W=0.12E-6
R97 (net22 net90) R=9.1E4
C98 (net80 net141) C=2.0E-6
T99 (net106 net137 net137 0) nfet L=5.20E-6 W=4.74E-6
T100 (net190 net151 net151 0) nfet L=4.62E-6 W=4.71E-6
T101 (net56 net27 net27 0) nfet L=4.77E-6 W=1.72E-6
C102 (net97 0) C=7.4E-12
T103 (net144 net144 net144 0) pfet L=0.66E-6 W=5.67E-6
C104 (net160 net138) C=0.5E-6
C105 (net175 net56) C=9.9E-10
C106 (net181 net56) C=7.1E-11
R107 (vdd! net117) R=7.6E2
T108 (net105 net142 net142 0) pfet L=7.17E-6 W=2.98E-6
C109 (net132 net120) C=3.9E-6
T110 (net76 net116 net116 0) pfet L=9.38E-6 W=8.27E-6
C111 (net164 net11) C=3.2E-9
C112 (net71 net48) C=1.8E-14
T113 (net179 net132 net132 0) nfet L=2.14E-6 W=5.56E-6
T114 (vdd! 0 0 0) pfet L=9.30E-6 W=5.44E-6
R115 (net18 net35) R=1.2E4
T116 (net78 net58 net58 0) pfet L=5.04E-6 W=6.00E-6
C117 (net73 net166) C=9.7E-10
T118 (net107 net123 net123 0) pfet L=0.22E-6 W=5.62E-6
C119 (net179 net86) C=6.6E-7
T120 (net196 net53 net53 0) nfet L=0.22E-6 W=9.46E-6
T121 (vdd! net191 net191 0) nfet L=7.34E-6 W=0.40E-6
T122 (net9 net135 net135 0) nfet L=8.23E-6 W=1.98E-6
C123 (net183 net67) C=1.1E-8
R124 (0 net133) R=0.2E3
T125 (net116 net129 net129 0) pfet L=8.20E-6 W=5.60E-6
C126 (net82 net193) C=4.1E-14
T127 (net165 net13 net13 0) nfet L=7.73E-6 W=2.65E-6
T128 (net143 net94 net94 0) pfet L=4.80E-6 W=1.82E-6
C129 (net169 net136) C=6.2E-7
T130 (net144 net62 net62 0) pfet L=4.54E-6 W=4.67E-6
T131 (net40 net43 net43 0) pfet L=7.54E-6 W=0.41E-6
T132 (net34 0 0 0) nfet L=2.77E-6 W=7.32E-6
C133 (net16 net188) C=1.5E-9
R134 (net1 net193) R=2.6E1
T135 (net37 net61 net61 0) nfet L=6.77E-6 W=7.88E-6
C136 (net3 net188) C=10.0E-14
T137 (net124 net120 net120 0) pfet L=1.68E-6 W=1.80E-6
C138 (net9 net105) C=9.0E-12
C139 (net109 net77) C=2.8E-9
R140 (net28 net196) R=4.2E3
C141 (vdd! net25) C=9.0E-8
T142 (net31 net47 net47 0) pfet L=2.79E-6 W=7.85E-6
R143 (net57 net149) R=2.6E6
R144 (net35 net106) R=6.3E3
T145 (net140 net167 net167 0) pfet L=1.98E-6 W=1.51E-6
C146 (net31 net49) C=7.0E-13
R147 (net112 net82) R=9.0E1
R148 (net122 net84) R=8.1E6
T149 (net110 0 0 0) pfet L=3.69E-6 W=4.29E-6
C150 (net7 net185) C=4.0E-9
T151 (net1 net120 net120 0) nfet L=9.98E-6 W=5.01E-6
R152 (net76 net180) R=9.3E4
R153 (net180 net3) R=1.0E3
T154 (net96 net23 net23 0) nfet L=8.22E-6 W=3.09E-6
T155 (net82 net196 net196 0) pfet L=0.20E-6 W=7.21E-6
R156 (net70 net39) R=8.4E5
T157 (net3 net45 net45 0) pfet L=1.12E-6 W=4.06E-6
C158 (0 net93) C=2.5E-11
T159 (net26 net110 net110 0) pfet L=0.62E-6 W=6.95E-6
R160 (net102 net44) R=2.7E4
R161 (net52 0) R=0.7E6
C162 (net26 net137) C=9.5E-12
T163 (net39 net66 net66 0) nfet L=1.12E-6 W=3.26E-6
C164 (net193 net71) C=7.6E-10
T165 (net92 net165 net165 0) nfet L=7.83E-6 W=9.36E-6
R166 (net186 0) R=2.4E2
T167 (net44 net45 net45 0) nfet L=0.46E-6 W=3.51E-6
R168 (net1 net187) R=2.2E1
R169 (0 net104) R=2.7E4
T170 (net87 net68 net68 0) nfet L=2.46E-6 W=8.29E-6
T171 (net152 net16 net16 0) pfet L=7.22E-6 W=9.67E-6
T172 (net157 net158 net158 0) pfet L=4.30E-6 W=9.27E-6
T173 (net33 net130 net130 0) pfet L=0.72E-6 W=3.90E-6
R174 (net8 0) R=8.3E1
T175 (net86 net34 net34 0) nfet L=7.71E-6 W=6.28E-6
C176 (net178 net158) C=9.9E-10
C177 (net142 net26) C=9.6E-7
R178 (net97 net85) R=3.1E3
T179 (0 net10 net10 0) pfet L=2.30E-6 W=5.76E-6
R180 (net143 net171) R=7.7E2
C181 (net33 net18) C=9.3E-7
T182 (net117 net43 net43 0) nfet L=7.04E-6 W=8.95E-6
R183 (net40 net104) R=9.3E0
T184 (net110 net133 net133 0) nfet L=3.09E-6 W=3.68E-6
C185 (net112 net61) C=1.2E-5
T186 (net147 net82 net82 0) nfet L=6.64E-6 W=5.50E-6
R187 (net23 vdd!) R=9.9E0
T188 (net190 net41 net41 0) nfet L=0.18E-6 W=3.11E-6
C189 (net157 net115) C=3.7E-9
C190 (net183 net12) C=6.5E-14
T191 (net117 vdd! vdd! 0) pfet L=5.07E-6 W=8.42E-6
T192 (net197 net141 net141 0) nfet L=0.14E-6 W=0.51E-6
C193 (net68 net56) C=3.6E-5
R194 (net188 net104) R=1.3E5
T195 (net13 net24 net24 0) nfet L=6.06E-6 W=1.41E-6
R196 (net114 vdd!) R=2.9E3
C197 (net112 net159) C=4.3E-13
R198 (net41 net141) R=8.2E5
R199 (net23 net160) R=3.4E6
T200 (net14 net125 net125 0) nfet L=1.66E-6 W=6.16E-6
R201 (net137 net41) R=6.6E1
R202 (net21 net158) R=6.6E2
T203 (net80 net166 net166 0) pfet L=5.40E-6 W=9.90E-6
T204 (net6 net90 net90 0) pfet L=3.14E-6 W=9.67E-6
C205 (net60 net195) C=1.7E-7
C206 (net112 net18) C=3.6E-5
C207 (net8 net68) C=2.3E-14
R208 (net140 net138) R=5.9E4
T209 (net53 net146 net146 0) nfet L=2.55E-6 W=7.63E-6
T210 (net97 net62 net62 0) nfet L=8.89E-6 W=1.94E-6
R211 (net114 net152) R=6.0E5
C212 (net31 net91) C=5.4E-6
C213 (net135 net179) C=1.0E-6
R214 (net139 net36) R=6.6E0
T215 (net5 net163 net163 0) nfet L=5.48E-6 W=1.90E-6
T216 (net129 0 0 0) nfet L=6.64E-6 W=8.09E-6
C217 (net129 net71) C=1.5E-14
R218 (net36 net94) R=3.1E6
T219 (net68 net27 net27 0) pfet L=4.71E-6 W=9.74E-6
C220 (net106 net16) C=5.6E-10
C221 (net3 net65) C=0.1E-7
T222 (net43 net182 net182 0) nfet L=4.18E-6 W=0.21E-6
T223 (net60 net72 net72 0) pfet L=8.53E-6 W=0.54E-6
R224 (net186 net169) R=3.1E0
T225 (net52 net195 net195 0) nfet L=0.69E-6 W=1.82E-6
R226 (net50 net123) R=0.6E1
T227 (net122 net121 net121 0) pfet L=8.54E-6 W=9.85E-6
T228 (net37 net88 net88 0) nfet L=9.88E-6 W=5.33E-6
R229 (net17 net18) R=0.3E3
C230 (0 net89) C=0.6E-11
R231 (net169 0) R=4.2E4
C232 (net165 net76) C=3.7E-9
R233 (net151 net141) R=2.6E4
T234 (net54 net184 net184 0) pfet L=8.63E-6 W=5.32E-6
T235 (net10 net115 net115 0) pfet L=8.86E-6 W=4.80E-6
C236 (net109 net159) C=4.1E-13
T237 (net142 net174 net174 0) nfet L=4.40E-6 W=2.35E-6
R238 (net137 net151) R=2.0E0
C239 (net87 net165) C=6.9E-6
T240 (net1 net56 net56 0) nfet L=0.45E-6 W=6.14E-6
R241 (net7 net55) R=9.4E1
C242 (net190 net2) C=7.8E-14
T243 (vdd! net41 net41 0) nfet L=7.75E-6 W=2.85E-6
C244 (net184 net183) C=4.6E-13
T245 (net155 net115 net115 0) nfet L=4.40E-6 W=6.07E-6
C246 (net70 net93) C=5.3E-10
T247 (net14 net99 net99 0) nfet L=8.18E-6 W=7.57E-6
R248 (net102 net38) R=0.1E0
T249 (net191 net193 net193 0) nfet L=5.86E-6 W=3.48E-6
T250 (net129 net119 net119 0) nfet L=3.47E-6 W=6.88E-6
R251 (net5 net77) R=3.0E6
C252 (net41 net44) C=9.9E-14
C253 (net197 net61) C=0.3E-6
R254 (net44 net23) R=8.6E0
R255 (net195 net125) R=3.1E4
T256 (net141 net103 net103 0) nfet L=4.72E-6 W=1.78E-6
C257 (net113 net135) C=2.4E-8
T258 (net193 net41 net41 0) pfet L=4.15E-6 W=0.49E-6
R259 (vdd! 0) R=9.7E0
C260 (net64 net66) C=2.8E-7
T261 (net18 net82 net82 0) pfet L=7.45E-6 W=3.81E-6
T262 (net121 net30 net30 0) nfet L=6.89E-6 W=8.44E-6
R263 (net137 net111) R=2.6E4
T264 (net55 net37 net37 0) nfet L=4.01E-6 W=0.67E-6
R265 (net2 net167) R=8.8E2
T266 (net103 net169 net169 0) pfet L=2.82E-6 W=4.05E-6
T267 (net141 net181 net181 0) pfet L=2.86E-6 W=1.16E-6
T268 (0 net2 net2 0) pfet L=5.56E-6 W=4.36E-6
T269 (net48 net7 net7 0) nfet L=9.47E-6 W=5.32E-6
T270 (net179 net77 net77 0) pfet L=2.72E-6 W=4.42E-6
C271 (net55 net26) C=8.6E-7
C272 (net113 net78) C=4.5E-11
T273 (net19 net90 net90 0) nfet L=1.21E-6 W=3.05E-6
T274 (net123 net95 net95 0) nfet L=6.08E-6 W=9.62E-6
T275 (net159 net139 net139 0) nfet L=5.97E-6 W=3.81E-6
T276 (net123 net182 net182 0) pfet L=3.50E-6 W=3.91E-6
R277 (net46 net151) R=7.8E6
T278 (net41 net94 net94 0) pfet L=1.19E-6 W=4.72E-6
T279 (net96 net24 net24 0) nfet L=7.89E-6 W=6.64E-6
T280 (net40 net82 net82 0) nfet L=7.36E-6 W=4.13E-6
R281 (net45 net3) R=2.7E4
R282 (net63 net178) R=7.4E5
T283 (net136 net15 net15 0) nfet L=3.42E-6 W=5.40E-6

