R1 ( net59 net5)  R=8.8E2
T2 ( net5 net5 net31 0)  nfet  L=1.60E-6 W=9.50E-6
T3 ( net31 net81 0 0)  nfet  L=1.60E-6 W=9.50E-6
T4 ( net81 net81 0 0)  nfet  L=1.60E-6 W=9.50E-6
T5 ( net44 net5 net81 0)  nfet  L=1.60E-6 W=9.50E-6
C6 (net39 net10) C=4.6E-7
T7 (net69 net24 net24 0) nfet L=1.35E-6 W=3.01E-6
C8 (net35 net3) C=4.8E-9
R9 ( net87 net63)  R=6.5E2
T10 ( net63 net63 vdd! vdd!)  pfet  L=1.51E-6 W=1.01E-6
T11 ( net32 net63 vdd! vdd!)  pfet  L=1.51E-6 W=1.01E-6
R12 (net23 net80) R=2.4E5
R13 (net4 net23) R=1.6E1
R14 (net4 net82) R=6.0E0
T15 (0 net1 net1 0) nfet L=2.84E-6 W=5.76E-6
T16 (net91 net65 net65 0) pfet L=0.59E-6 W=7.35E-6
R17 (net82 net67) R=7.5E6
T18 (net35 net57 net57 0) pfet L=2.18E-6 W=8.49E-6
C19 (net4 net56) C=3.5E-6
T20 (net4 net38 net38 0) pfet L=3.05E-6 W=4.10E-6
T21 (net55 net58 net58 0) nfet L=7.98E-6 W=5.56E-6
R22 (net53 net83) R=4.7E6
C23 (vdd! net57) C=3.5E-11
R24 (net50 net9) R=9.3E3
C25 (net21 net38) C=2.8E-9
R26 (net27 net41) R=9.7E3
C27 (net57 net79) C=8.2E-8
T28 (0 net85 net85 0) pfet L=1.91E-6 W=4.60E-6
C29 (net44 net89) C=6.3E-13
T30 (net78 net17 net17 0) pfet L=7.40E-6 W=2.50E-6
C31 (net79 net72) C=6.4E-6
T32 (net22 net85 net85 0) nfet L=5.24E-6 W=4.22E-6
T33 (net82 net58 net58 0) pfet L=0.74E-6 W=9.50E-6
T34 (net3 net21 net21 0) nfet L=7.21E-6 W=1.35E-6
T35 (net48 net55 net55 0) pfet L=8.83E-6 W=8.17E-6
R36 (net83 net12) R=3.2E5
T37 (vdd! net10 net10 0) nfet L=7.59E-6 W=3.88E-6
R38 (net89 net47) R=9.5E5
R39 (0 net74) R=3.4E2
T40 (net70 net67 net67 0) nfet L=7.93E-6 W=8.32E-6
R41 (net33 net9) R=2.2E0
C42 (net18 net43) C=7.8E-10
T43 (vdd! vdd! vdd! 0) nfet L=3.52E-6 W=6.96E-6
T44 (net62 net4 net4 0) pfet L=4.36E-6 W=6.91E-6
R45 (net76 net48) R=0.2E0
T46 (net28 net35 net35 0) nfet L=8.55E-6 W=9.86E-6
T47 (vdd! net66 net66 0) pfet L=4.44E-6 W=1.37E-6
C48 (net16 net79) C=6.8E-12
C49 (net64 net88) C=7.4E-12
R50 (net50 net88) R=4.8E0
T51 (net44 net24 net24 0) pfet L=4.18E-6 W=8.55E-6
C52 (net68 net60) C=1.4E-9
T53 (net72 net60 net60 0) pfet L=7.35E-6 W=7.37E-6
C54 (net38 net84) C=9.6E-5
R55 (net19 net6) R=3.5E5
T56 (net79 net7 net7 0) nfet L=9.03E-6 W=8.51E-6
T57 (net57 net47 net47 0) pfet L=0.25E-6 W=7.77E-6
T58 (net67 net12 net12 0) nfet L=6.16E-6 W=2.95E-6
R59 (net56 net2) R=3.8E6
C60 (net11 net50) C=9.6E-14
R61 (net59 net9) R=0.2E6
T62 (net29 net91 net91 0) nfet L=1.31E-6 W=3.98E-6
T63 (net52 net27 net27 0) pfet L=7.70E-6 W=2.75E-6
C64 (net48 net85) C=7.5E-11
R65 (net66 net26) R=7.0E0
R66 (0 net16) R=3.1E3
R67 (net20 net45) R=5.0E1
C68 (0 net25) C=6.0E-12
R69 (net78 net25) R=1.6E1
R70 (net17 net44) R=6.2E2
C71 (net83 net50) C=6.4E-9
C72 (0 net1) C=0.5E-11
T73 (net9 net55 net55 0) nfet L=2.67E-6 W=6.31E-6
C74 (net35 net55) C=3.8E-13
C75 (net44 net47) C=1.7E-11
C76 (net39 net90) C=0.7E-14
T77 (net86 net59 net59 0) pfet L=2.86E-6 W=7.89E-6
C78 (net78 net89) C=9.8E-6
R79 (net14 net76) R=2.5E1
R80 (net41 net45) R=8.0E2
T81 (net91 net27 net27 0) nfet L=2.82E-6 W=8.63E-6
C82 (net60 net79) C=2.2E-12
T83 (net90 net62 net62 0) pfet L=8.67E-6 W=3.94E-6
T84 (net74 net45 net45 0) nfet L=8.58E-6 W=3.64E-6
T85 (net43 net50 net50 0) nfet L=7.90E-6 W=9.44E-6
C86 (net60 net21) C=3.6E-12
R87 (0 net83) R=4.6E1
T88 (net49 net17 net17 0) nfet L=9.12E-6 W=2.42E-6
C89 (net37 net30) C=4.5E-10
R90 (0 net89) R=3.7E0
T91 (vdd! net24 net24 0) nfet L=9.55E-6 W=4.70E-6
T92 (net12 net34 net34 0) pfet L=8.98E-6 W=7.74E-6
T93 (net61 net29 net29 0) pfet L=1.78E-6 W=4.45E-6
R94 (vdd! net18) R=5.5E0
C95 (net3 net24) C=1.1E-6
C96 (net79 vdd!) C=6.8E-14
T97 (vdd! net82 net82 0) pfet L=6.57E-6 W=0.18E-6
R98 (net87 net37) R=6.3E6
T99 (0 net10 net10 0) pfet L=5.46E-6 W=10.00E-6
C100 (net28 net83) C=2.3E-8
C101 (vdd! net33) C=2.3E-14
T102 (net46 vdd! vdd! 0) pfet L=0.55E-6 W=8.79E-6
C103 (net54 net82) C=2.3E-10
R104 (net10 net52) R=2.5E3
R105 (vdd! net15) R=0.4E6
T106 (net73 net44 net44 0) nfet L=3.81E-6 W=0.92E-6
R107 (net6 net35) R=8.5E2
T108 (net61 net3 net3 0) nfet L=2.98E-6 W=9.62E-6
T109 (net1 net23 net23 0) pfet L=3.32E-6 W=7.27E-6
T110 (net3 net53 net53 0) nfet L=7.98E-6 W=4.37E-6
T111 (net37 net90 net90 0) nfet L=5.07E-6 W=7.15E-6
C112 (net8 net13) C=0.8E-12
T113 (net58 net67 net67 0) pfet L=4.29E-6 W=7.03E-6
C114 (vdd! net70) C=6.1E-9
T115 (net20 net23 net23 0) pfet L=1.21E-6 W=5.39E-6
C116 (net48 net7) C=3.3E-5
C117 (net18 vdd!) C=6.5E-12
C118 (net76 net26) C=7.2E-7
T119 (net42 net26 net26 0) pfet L=9.80E-6 W=9.36E-6
R120 (0 net65) R=2.3E2
R121 (net71 net73) R=9.5E0
T122 (net41 net7 net7 0) nfet L=5.83E-6 W=2.72E-6
T123 (net51 net15 net15 0) pfet L=3.11E-6 W=5.60E-6
C124 (net49 net69) C=2.0E-10
T125 (net68 net59 net59 0) pfet L=7.76E-6 W=9.74E-6
T126 (net38 net67 net67 0) pfet L=6.38E-6 W=2.35E-6
T127 (net83 net91 net91 0) pfet L=5.12E-6 W=6.67E-6

